US04122265
A solution of 2.3 g. of 2-diethylaminoethylamine in 25 ml. of dimethylformamide is treated under an atmosphere of argon at 5°-10° C. with 0.02 mol. of butyllithium (10 ml. of a 2-M solution in hexane). Then, there is added at 20°-25° C. a solution of 3.2 g. of 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid ethyl ester in 15 ml. of dimethylformamide, the hexane is removed by distillation and the mixture is subsequently stirred at 120° C. for 1 hour. After cooling, the mixture is poured on to 200 ml. of ice-water, the separated oil extracted with methylene chloride and the extract washed with water and evaporated to dryness. The residue is dissolved in 100 ml. of diethyl ether and the solution obtained extracted with 0.5 -N hydrochloric acid. The ethereal phase contains unreacted starting material which can be recovered after concentration of the solution. The aqueous acid extract is made alkaline with concentrated ammonia solution at 0° -5° C. and the separated oil extracted with diethyl ether. The ethereal extract is washed with water, dried over sodium sulfate and concentrated to dryness. The residual base is dissolved in 5 ml. of acetone and treated with excess ethereal hydrochloric acid. The hydrochloride which crystallizes out is removed by filtration and washed with diethyl ether, and there is obtained 5-chloro-2-metyl-3-phenylisoindole-1-carboxylic acid [2-(diethylamino)ethyl]amide hydrochloride having a melting point of 211°-214° C. (decomposition).

reactant | 2-diethylaminoethylamine | C(C)N(CCN)CC | C6H16N2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | butyllithium | C(CCC)[Li]
reactant | 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C | C18H16ClNO2
solvent | hexane | CCCCCC | C6H14
product | 5-chloro-2-metyl-3-phenylisoindole-1-carboxylic acid [2-(diethylamino)ethyl]amide hydrochloride | Cl.C(C)N(CCNC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C)CC | InChI=1S/C22H26ClN3O.ClH/c1-4-26(5-2)14-13-24-22(27)21-18-12-11-17(23)15-19(18)20(25(21)3)16-9-7-6-8-10-16;/h6-12,15H,4-5,13-14H2,1-3H3,(H,24,27);1H
